US06699887B2
140 mg of [5-(3,5-dichlorophenylthio)-1-(4-methoxybenzyl)-3-methyl-1H-pyrazol-4-yl]-phenyl-methanone was treated with 4 ml of trifluoroacetic acid. The solution was then heated at reflux for 2 h. The solvent was evaporated under reduced pressure. The residue was then partitioned between dichloromethane/saturated sodium hydrogen carbonate, washed with brine then dried over anhydrous magnesium sulphate, filtered and evaporated to give 75 mg of [5-(3,5-dichlorophenylthio)-3-methyl-1H-pyrazol-4-yl]-phenyl-methanone as a yellow solid which was used without further purification. Mass spectrum (ES) m/z 363[M+H]+.

reactant | [5-(3,5-dichlorophenylthio)-1-(4-methoxybenzyl)-3-methyl-1H-pyrazol-4-yl]-phenyl-methanone | 140 mg | ClC=1C=C(C=C(C1)Cl)SC1=C(C(=NN1CC1=CC=C(C=C1)OC)C)C(=O)C1=CC=CC=C1 | C25H20Cl2N2O2S
reactant | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
product | [5-(3,5-dichlorophenylthio)-3-methyl-1H-pyrazol-4-yl]-phenyl-methanone | 75 mg | ClC=1C=C(C=C(C1)Cl)SC1=C(C(=NN1)C)C(=O)C1=CC=CC=C1 | C17H12Cl2N2OS
